US20010044535A1
D. 4-Iodobenzoic acid tert-butyl ester
4-Iodobenzoic Acid (25 g, 0.10M) was suspended in 200 ml of anhydrous dioxane containing 14 ml of concentrated sulfuric acid. Isobutylene (200 ml) was condensed and added to the suspension. The reaction vessel was sealed and stirred at room temperature for 3 days, during which time most of the material dissolved. The reaction mixture was cautiously poured into saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was dried with anhydrous sodium carbonate, filtered and evaporated to a colorless oil (18 g, (60%). 1H NMR (CDCl3) δ 1.59 (s, 9H), 7.68 (d, J=8 Hz, 2H), 7.75 (d, J=8 Hz, 2H).

reactant | 4-Iodobenzoic Acid | 0.10M, 25 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Isobutylene | 200 ml | CC(C)=C | C4H8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 4-Iodobenzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)I)=O | C11H13IO2
